US05057505
6.57 g (17 mmol) of 1-(thiazol-2-ylamino)-methane-1,1-diphosphonic acid tetraethyl ester are dissolved in 70 ml of N hydrochloric acid and heated under reflux for 6 hours. In the course of the reaction, the product separates out in the form of a fine white precipitate. After cooling to room temperature, filtration is carried out and the product is washed with aqueous methanol. 4.33 g (93% of the theoretical yield) of 1-(thiazol-2-ylamino)methane-1,1-diphosphonic acid of m.p. 275° (decomposition) are obtained.

reactant | 1-(thiazol-2-ylamino)-methane-1,1-diphosphonic acid tetraethyl ester | 17 mmol, 6.57 g | C(C)OP(OCC)(=O)C(P(OCC)(=O)OCC)NC=1SC=CN1 | C12H24N2O6P2S
solvent | hydrochloric acid | Cl | ClH
product | 1-(thiazol-2-ylamino)methane-1,1-diphosphonic acid | S1C(=NC=C1)NC(P(O)(=O)O)P(O)(=O)O | C4H8N2O6P2S
